US04247447
Preparation of 1,1-Dimethylhydroxymethylbis(2-cyanoethyl)-phosphine oxide (J. Org. Chem. 25, 4628-4632 (1961)
To a mixture of 0.1 mol of bis(2-cyanoethyl)phosphine oxide and 0.1 mol of acetone was added 1.0 gram of either triethyl amine or pentamethyl guanidine. The mixture was heated for 2 hours at steam bath temperatures. The resulting solid was filtered and recrystallized from acetone to give an 88% yield of product, m.p. 124°-125° C.

reactant | bis(2-cyanoethyl)phosphine oxide | 0.1 mol | C(#N)CCP(CCC#N)=O | C6H9N2OP
reactant | acetone | 0.1 mol | CC(=O)C | C3H6O
reactant | pentamethyl guanidine | CN(C(N(C)C)=NC)C | C6H15N3
solvent | triethyl amine | 1.0 gram | C(C)N(CC)CC | C6H15N
product | 1,1-Dimethylhydroxymethylbis(2-cyanoethyl)-phosphine oxide | 88% yield | CC(C)(O)P(CCC#N)(CCC#N)=O | C9H15N2O2P
